US04097481
Using the method of Example 12 except omitting the treatment with sodium hydroxide, 4.64 g. of 2,5-bis(2,2,2-trifluoroethoxy)-N-n-butyl-N-(2-pyridylmethyl)benzamide is reduced to provide white solid product, 2,5-bis(2,2,2-trifluoroethoxy)-N-n-butyl-N-(2-piperidylmethyl)benzamide acetate, m.p. 119°-120° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2,5-bis(2,2,2-trifluoroethoxy)-N-n-butyl-N-(2-pyridylmethyl)benzamide | FC(COC1=C(C(=O)N(CC2=NC=CC=C2)CCCC)C=C(C=C1)OCC(F)(F)F)(F)F | C21H22F6N2O3
product | 2,5-bis(2,2,2-trifluoroethoxy)-N-n-butyl-N-(2-piperidylmethyl)benzamide acetate | C(C)(=O)O.FC(COC1=C(C(=O)N(CC2NCCCC2)CCCC)C=C(C=C1)OCC(F)(F)F)(F)F | InChI=1S/C21H28F6N2O3.C2H4O2/c1-2-3-10-29(12-15-6-4-5-9-28-15)19(30)17-11-16(31-13-20(22,23)24)7-8-18(17)32-14-21(25,26)27;1-2(3)4/h7-8,11,15,28H,2-6,9-10,12-14H2,1H3;1H3,(H,3,4)
